US07381719B2
3-Butyl-1-(4-methoxy-benzyl)-piperidine
Combine 1-[1-(4-Methoxy-benzyl)-piperidin-3-yl]-butan-1-one (356.0 mg, 0.95 mmol), Diethylene glycol (15 mL), KOH (479.0 mg, 8.54 mmol), and Hydrazine-monohydrate (1.8 mL) at room temperature under a Nitrogen atmosphere. Heat the reaction mixture to 120° C. for 2 hours and then 220° C. for 24 hours. Cool reaction to room temperature and then pour the reaction mixture over sat NH4Cl (aq). Extract with Ethyl acetate, wash with brine, and dry over Na2SO4. Concentrate under reduced pressure and flash chromatograph using 3% 1N NH3MeOH in CH2Cl2 to give 220.7 mg (89% yield) of the title compound: 1H NMR (500 MHz, CDCl3); 0.7-0.9 (3H, m), 1.1-1.4 (4H, m), 1.5-1.7 (4H, m), 1.7 (1H, d), 1.9 (1H, t), 2.8 (2H, t), 3.4 (2H, dd), 3.6-3.7 (3H, m), 3.8 (3H, s), 6.8 (2H, d), 7.2 (2H, d); MS m/z 262 (M+1).

reactant | 1-[1-(4-Methoxy-benzyl)-piperidin-3-yl]-butan-1-one | 0.95 mmol, 356.0 mg | COC1=CC=C(CN2CC(CCC2)C(CCC)=O)C=C1 | C17H25NO2
reactant | KOH | 8.54 mmol, 479.0 mg | [OH-].[K+]
reactant | Hydrazine-monohydrate | 1.8 mL | O.NN
reactant | NH4Cl | [NH4+].[Cl-]
solvent | Diethylene glycol | 15 mL | C(COCCO)O | C4H10O3
product | 3-Butyl-1-(4-methoxy-benzyl)-piperidine | 220.7 mg, 89% yield | C(CCC)C1CN(CCC1)CC1=CC=C(C=C1)OC | C17H27NO
